Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / doxycycline
 
Attending: ___.
 
Chief Complaint:
latent TB,pneumothorax
 
Major Surgical or Invasive Procedure:
Bronchoscopy ___
Chest tube placement ___
Chest tube removal ___

 
History of Present Illness:
___ ___ female, never smoker, with a history
of latent without anti-TB treatment, with the recent CT imaging
showing right middle lobe and lingular nodular opacities, who
underwent bronchoscopy, with the complication of a pneumothorax,
and was subsequently admitted for monitoring.

As per IP notes, the patient has suffered fatigue, malaise, 
cough
since the ___.  She was treated with doxycycline and
Levaquin in ___.  She reports intermittent chills and a 10
pound weight loss since ___.  CT imaging on ___ showed
right middle lobe and lingular nodular opacities with 11 mm left
sided cavitary lesion, which she was going further workup to 
rule
out active TB.  Unfortunately, sputum sample was obtained in the
outpatient setting were contaminated and unable to rule out AFB. 


She subsequently underwent bronchoscopy on ___ with IP,
with biopsies, with a complication of a pneumothorax.  She had a
left sided chest tube placed and was admitted to medicine for
further monitoring. 

 Upon arrival to the floor, the patient reports pain in the left
side.  She feels that her breathing feels "weak".  She otherwise
denies cough, abdominal pain, nausea, vomiting.  She currently
reports decreased appetite in the setting of pain.  She reports
at home she has ongoing fevers and no cough.  She also reports
long-standing lightheadedness, without vertigo, but occurs at
home.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
HTN
Hypercholesterolemia
C-section
Hysterectomy 
Tubal ligation ___

 
Social History:
___
Family History:
Mother: Lung cancer
Father: COPD
Brother: ___, liver disease
 
Physical Exam:
ADMISSION
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert, appears uncomfortable 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally, some splinting due to pain, + chest tube in the
anterior left chest, no erythema
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE
VS: ___ ___ Temp: 97.4 PO BP: 116/69 HR: 64 RR: 18 O2 sat:
98% O2 delivery: RA 
Gen - supine in bed, comfortable
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - decreased breath sounds at bases bilaterally; no 
wheezes,
rales, ronchi; 
Abd - soft nontender, normal bowel sounds 
Ext - no edema
Skin - no rashes; L percutaneous chest tube in place; no
subcutaneous emphysema 
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 07:43AM BLOOD WBC-12.0* RBC-3.66* Hgb-12.1 Hct-35.1 
MCV-96 MCH-33.1* MCHC-34.5 RDW-12.2 RDWSD-43.0 Plt ___
___ 07:43AM BLOOD Glucose-136* UreaN-10 Creat-0.7 Na-141 
K-4.1 Cl-103 HCO3-24 AnGap-14
___ 07:43AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.9

Bronchoscopy - see OMR for full report

CHEST (PORTABLE AP)
There is a moderate-sized left pneumothorax.  The left lower 
lobe nodule is not that well seen.  There is a nodular opacity 
in the right middle lobe.  Heart size is normal.  There is no 
pleural effusion 

CHEST PORT. LINE PLACEM 
There is a left-sided pleural pigtail catheter.  The left 
pneumothorax has 
resolved.  Heart size is within normal limits.  No focal 
consolidation or 
overt pulmonary edema is seen. 

CHEST (PORTABLE AP)
There is a left-sided pigtail pleural catheter.  There are no 
significant 
pneumothoraces.  Lungs are relatively clear. 

Bronch Pathology
Lung, left lobe lingula, transbronchial biopsy:
- Fragments of unremarkable alveolated lung parenchyma and 
airway tissue.
- No evidence of an inflammatory/infectious process or 
malignancy.
 
Brief Hospital Course:
This is a ___ year old female with history of latent 
tuberculosis, recent CT imaging showing right middle lobe and 
lingular nodular opacities who underwent an outpatient 
bronchoscopy complicated by pneumothorax admitted ___ for 
management, status post chest tube placement with resolution of 
pneumothorax, now status post chest tube removal, able to be 
discharged home

# Pnuemothorax
# Pleuritic chest pain
Patient bronchoscopy was complicated by Lsided pneumothorax, 
requiring placement of chest tube by interventional pulmonary 
service. Initially managed with chest tube to wall suction -20 
cm H2O, then trial of clamping without recurrence of 
pneumothorax on repeat imaging.  Chest tube was then pulled.  
Pleuritic chest pain at site of chest tube was controlled with 
Tylenol and tramadol.  Pain improved with chest tube removal.  
Provided 2 day supply of prn tramadol (as well as bowel regimen 
prophylaxis) for resolving post-procedural pain.  

# Latent Tuberculosis
# Abnormal CT Lungs
Patient being worked up for abnormal CT lung findings, and was 
admitted for above pneumothorax.  Given possibility of pulmonary 
TB, patient was maintained on airborne precautions during 
hospital stay.  Bronchoscopy biopsy did not reveal causative 
abnormality.  Remainder of workup (BAL, tissue cultures) 
remained pending.  Patient discharged to follow-up with IP 
service, as previously planned prior to her pneumothorax. 

# Hypertension
Initially held home losartan in setting of pneumothorax.  
Restarted at discharge

Transitional issues
- Discharged home 
- Maintained on airborne precautions during this admission
- Bronchoscopy tissue and BAL culture pending at time of 
discharge 
- Patient to follow-up with interventional pulmonary as 
previously planned 
- ___ incidentally noted to be 12.0 this admission, suspected to 
be stress response to her bronchoscopy and pneumothorax, without 
signs of acute process; could consider repeat CBC check at 
follow-up

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. LORazepam 0.5 mg PO ASDIR plane rides 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - First 
Line 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth daily 
Disp #*5 Capsule Refills:*0 
2.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*8 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO ASDIR plane rides  
4.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Pneumothorax
# Pleuritic chest pain
# Latent Tuberculosis
# Abnormal CT Lungs
# Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
for treatment of a pneumothorax that occurred following your 
bronchoscopy.  

You were seen by pulmonary specialists, treated with a chest 
tube and you improved.  You are now ready for discharge home.

The lung doctors ___ be in touch with the results of your 
testing.
 
Followup Instructions:
___